US08604038B2
Step A: Tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-5-(4-{[1-(pyridine-2-yl)ethyl]carbamoyl}benzyl)pyrrolidine-1-carboxylate
1-Pyridin-2-yl-ethylamine (77 mg, 0.628 mmol) was added to a stirred, room temperature mixture of 4-({(2S,5R)-1-(tert-butoxycarbonyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]pyrrolidin-2-yl}methyl)benzoic acid (300 mg, 0.571 mmol), HATU (260 mg, 0.685 mmol, 1.2 equivalents) and DIPEA (470 μL, 2.69 mmol, 4.7 equivalents) in DMF (1.2 mL). The reaction was stirred at room temperature for 16 hours before being loaded directly onto a silica column and purified by normal phase flash chromatography using silica gel (20-100% hexanes/ethyl acetate). The product fractions were collected and concentrated in vacuo to afford the title compound as a colorless gum (350 mg, 97%). LC-MS=630.3 (M+H)+.

reactant | 1-Pyridin-2-yl-ethylamine | 0.628 mmol, 77 mg | N1=C(C=CC=C1)C(C)N | C7H10N2
reactant | 4-({(2S,5R)-1-(tert-butoxycarbonyl)-5-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]pyrrolidin-2-yl}methyl)benzoic acid | 0.571 mmol, 300 mg | C(C)(C)(C)OC(=O)N1[C@@H](CC[C@@H]1[C@@H](C1=CC=CC=C1)O[Si](C)(C)C(C)(C)C)CC1=CC=C(C(=O)O)C=C1 | C30H43NO5Si
reactant | HATU | 0.685 mmol, 260 mg, 1.2 equivalents | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.69 mmol, 470 μL, 4.7 equivalents | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.2 mL | CN(C)C=O | C3H7NO
product | Tert-butyl (2R,5S)-2-[(R)-{[tert-butyl(dimethyl)silyl]oxy}(phenyl)methyl]-5-(4-{[1-(pyridine-2-yl)ethyl]carbamoyl}benzyl)pyrrolidine-1-carboxylate | 350 mg, 97% | [Si](C)(C)(C(C)(C)C)O[C@@H]([C@@H]1N([C@@H](CC1)CC1=CC=C(C=C1)C(NC(C)C1=NC=CC=C1)=O)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C37H51N3O4Si
